US04107218
Referring now to the drawing, a stoichiometric excess of phenol, acetone, and a mercaptan reaction promoter such as ethyl mercaptan, are fed to a reactor 12 that is maintained at a temperature of, for instance 55°-80° C, and which contains an acid catalyst such as sulfonated styrene-divinylbenzene ion exchange resin. Alternatively, a mercaptan reaction promoter can be combined with an acid catalyst such as sulfonated styrene-divinylbenzene ion exchange resin in the reactor as disclosed, for example, in McNutt et al., U.S. Pat. No. 3,394,089 and Gammill et al., U.S. Pat. No. 3,634,341 and addition thereof with the phenol and acetone feed can be eliminated. In the reactor 12, the reaction of phenol with acetone to produce 4,4'-bisphenol-A occurs. The product stream flowing from the reactor 12 contains phenol, 4,4'-bisphenol-A, some unreacted acetone, mercaptan promoter, water, and by-products. The product stream flows from the reactor 12 to a dehydrator 14, in which the acetone, mercaptan promoter, water, and some of the phenol are stripped from the product stream. The dehydrated product stream flows from the dehydrator 14 to a crystallizer 16, in which 4,4' -bisphenol-A/phenol adduct crystals are precipitated by cooling. The slurry of mother liquor and adduct crystals flows from the crystallizer to a solid-liquid separator such as a centrifuge 18, in which the mother liquor and adduct crystals are separated. The 4,4'-bisphenol-A product is recovered from the adduct crystals by known techniques (not shown). The mother liquor flows from the centrifuge 18 to a mother liquor storage container 22, prior to being recycled to the reactor 12. At least a portion of the mother liquor flowing from the centrifuge 18 may be introduced into a purge recovery reactor 20, in which it is subjected to elevated temperature (e.g., 100° to 300° C., and preferably 150° to 250° C.) in the presence of a base catalyst, to cleave the bisphenols and other polyphenols present in the mother liquor to phenol and IPP, including IPP dimer. The phenol and IPP products of the cleavage reaction are continuously removed from the purge recovery reactor 20, as by distillation, and the cleavage reaction product stream 21 is returned to the mother liquor recycle stream 19.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | ethyl mercaptan | C(C)S | C2H6S
reactant | styrene-divinylbenzene | C(=C)C1=C(C=CC=C1)C=C.C=CC1=CC=CC=C1
reactant | acetone | CC(=O)C | C3H6O
product | 4,4'-bisphenol-A | CC(C)(C1=CC=C(C=C1)O)C2=CC=C(C=C2)O | C15H16O2
